US08404709B2
4-(4-Cyano-2-methoxyphenyl)-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile
1.05 g (6.51 mmol) of 4-formyl-3-methoxybenzonitrile are dissolved with 684 mg (6.51 mmol) of sodium 1-cyanoprop-1-en-2-olate, 789 mg (7.16 mmol) of 4-aminopyridin-2(1H)-one [Searls, T., McLaughlin, L. W., Tetrahedron 55, 11985-11996 (1999)] and 600 μl (9.77 mmol) of acetic acid in 30 ml of isopropanol and heated under reflux under argon for 12 h. Cooling is followed by filtration, and the remaining solid is washed with diethyl ether (40 ml). 1.96 g (94% of theory) of the title compound are obtained as a white solid.

reactant | 4-formyl-3-methoxybenzonitrile | 6.51 mmol, 1.05 g | C(=O)C1=C(C=C(C#N)C=C1)OC | C9H7NO2
reactant | sodium 1-cyanoprop-1-en-2-olate | 6.51 mmol, 684 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 4-aminopyridin-2(1H)-one | 7.16 mmol, 789 mg | NC1=CC(NC=C1)=O | C5H6N2O
reactant | acetic acid | 9.77 mmol, 600 μl | C(C)(=O)O | C2H4O2
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 4-(4-Cyano-2-methoxyphenyl)-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile | C(#N)C1=CC(=C(C=C1)C1C(=C(NC=2C=CNC(C12)=O)C)C#N)OC | C18H14N4O2
